US07863288B2
Step 3—Preparation of 3-(4-chloro-benzyloxy)-2-ethoxy-benzaldehyde (629)
To a mixture of 3-(4-chloro-benzyloxy)-2-hydroxy-benzaldehyde (110 mg, 0.42 mmol), potassium carbonate (150 mg, 1.1 mmol) in acetonitrile (8 mL) was added iodoethane (0.2 mL, 2.5 mmol) at room temperature. The mixture was stirred at 98° C. for 18 hours. The reaction mixture was poured into a solution of saturated ammonium chloride and was extracted with ethyl acetate. The organic layer was collected, washed with brine, and dried over magnesium sulfate. After removal of solvent, a light yellow solid was obtained (629, 116 mg, 95%).

reactant | 3-(4-chloro-benzyloxy)-2-hydroxy-benzaldehyde | 0.42 mmol, 110 mg | ClC1=CC=C(COC=2C(=C(C=O)C=CC2)O)C=C1 | C14H11ClO3
reactant | potassium carbonate | 1.1 mmol, 150 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 2.5 mmol, 0.2 mL | ICC | C2H5I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | 3-(4-chloro-benzyloxy)-2-ethoxy-benzaldehyde | ClC1=CC=C(COC=2C(=C(C=O)C=CC2)OCC)C=C1 | C16H15ClO3
